US09120749B2
1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone dihydrochloride
To a suspension of 1-(6-bromo-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone (50 mg, 0.116 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.15 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). N2 gas was bubbled through the reaction mixture and the mixture was then heated at 80° C. for 2 h. The solution was allowed to cool to room temperature, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded a residue that was dissolved in methanol (4 mL) and HCl (1.25 M in methanol, 1.0 mL, 1.25 mmol) was added. The resultant solution was concentrated to give the desired product (18.6 mg, 27%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.26 (s, 1H), 8.25-8.18 (m, 1H), 8.18-8.07 (m, 2H), 8.00 (d, J=8.8 Hz, 1H), 7.71 (s, 1H), 7.36-7.32 (m, 2H), 4.70-4.61 (m, 1H), 3.68 (d, 2H), 3.53-3.45 (m, 1H), 3.41-3.22 (m, 1H), 2.94 (s, 3H), 2.80 (s, 3H), 2.53-2.33 (m, 4H). ESI MS m/z 510 [C26H25Cl2N5O2+H]+; HPLC 97.4% (AUC), tR=9.46 min.

reactant | 1-(6-bromo-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone | 0.116 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NN(C1)C1CCN(CC1)C | C20H22BrN5O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.15 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 1.25 mmol, 1.25 M, 1.0 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(6-(3,5-dichloro-4-hydroxyphenyl)-4-((1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)amino)quinolin-3-yl)ethanone dihydrochloride | 18.6 mg, 27% | Cl.Cl.ClC=1C=C(C=C(C1O)Cl)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC=1C=NN(C1)C1CCN(CC1)C | InChI=1S/C26H25Cl2N5O2.2ClH/c1-15(34)21-13-29-24-4-3-16(17-10-22(27)26(35)23(28)11-17)9-20(24)25(21)31-18-12-30-33(14-18)19-5-7-32(2)8-6-19;;/h3-4,9-14,19,35H,5-8H2,1-2H3,(H,29,31);2*1H
